US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-[(2,5-dimethyl-3-furyl)carbonyl]-thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 2,5-dimethyl-3-furoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 2,5-dimethyl-3-furancarbonyl isothiocyanate was prepared using the resultant 2,5-dimethyl-3-furancarbonyl chloride as a starting compound according to the description of the literature. 2,5-Dimethyl-3-furancarbonyl isothiocyanate was dissolved in ethanol (1 ml) to prepare a solution. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (38 mg, yield 48%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,5-dimethyl-3-furoic acid | 80 mg | CC=1OC(=CC1C(=O)O)C | C7H8O3
reactant | 2,5-dimethyl-3-furancarbonyl chloride | CC=1OC(=CC1C(=O)Cl)C | C7H7ClO2
reactant | 2,5-Dimethyl-3-furancarbonyl isothiocyanate | CC=1OC(=CC1C(=O)N=C=S)C | C8H7NO2S
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-[(2,5-dimethyl-3-furyl)carbonyl]-thiourea | 38 mg, yield 48% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=S)NC(=O)C1=C(OC(=C1)C)C)F | C25H22FN3O5S
